US04788304
(1) 6-(4-chlorophenoxy)-1-hexanal
To a suspension of 32 g (0.15 mol) of pyridinium chlorochromate in 450 ml of methylene chloride is added 23 g (0.1 mol) of 6-(4-chlorophenoxy)-1-hexanol. The mixture is maintained under a nitrogen atmosphere for 2 hours, is diluted with 1000 ml of ethyl ether and is stirred for 1.5 hours.

reactant | pyridinium chlorochromate | 0.15 mol, 32 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 6-(4-chlorophenoxy)-1-hexanol | 0.1 mol, 23 g | ClC1=CC=C(OCCCCCCO)C=C1 | C12H17ClO2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 1000 ml | C(C)OCC | C4H10O
product | 6-(4-chlorophenoxy)-1-hexanal | ClC1=CC=C(OCCCCCC=O)C=C1 | C12H15ClO2
